2199-11-27 05:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Captopril
   Cough;
   Erythromycin Base
   Unknown;
   Ampicillin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-11-27**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 70 (68 - 81) bpm
   BP: 110/56(66) {86/49(60) - 128/65(77)} mmHg
   RR: 18 (17 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,021 mL
                  PO:
                  TF:
   IVF:
                                                                      1 mL
   Blood products:
   Total out:
                                                                  1,280 mL
                                                                    110 mL
   Urine:
                                                                    280 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -259 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 93%
   ABG: ///38/
   Physical Examination
   GENERAL: WDWN female in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma. Dry mucous
   membranes, breathing comfortably
   NECK: Supple with JVP of 8 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. 2/6 systolic murmur best heard at Upper sternal border
   without radiation. No thrills, lifts. No S3 or S4.
   LUNGS: Diffusly roncous with slight wheeze, no wet crackles
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: trace LE pre-tibial edema
   SKIN: Lower extremity stasis dermatitis
   Labs / Radiology
   537 K/uL
   10.7 g/dL
   90 mg/dL
   2.2 mg/dL
   38 mEq/L
   5.1 mEq/L
   46 mg/dL
   94 mEq/L
   141 mEq/L
   33.5 %
   15.3 K/uL
        [image002.jpg]
                             [**2199-11-26**]  09:35 PM
   WBC
   15.3
   Hct
   33.5
   Plt
   537
   Cr
   2.2
   Glucose
   90
   Other labs: PT / PTT / INR:38.8/29.9/4.2, Differential-Neuts:90.4 %,
   Lymph:6.4 %, Mono:3.0 %, Eos:0.2 %, Lactic Acid:1.9 mmol/L, Ca++:9.2
   mg/dL, Mg++:1.9 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan: 84 yo woman with h/o CHF, HTN, and polymyositis
   who presents from [**Hospital 858**] Rehab with lower extremity edema and hypoxia,
   transfered to CCU with acutely worsened hypoxia.
   .
   #. Hypoxia: Differential for patient's hypoxia includes blossoming PNA
   vs. aspiration pneumonitis vs. flash pulmonary edema with dCHF and AF
   vs. PE.  The patient has been significantly diureesed during the course
   of the hospitalization, and on exam appears euvolemic to dry.  Patient
   was not acutly hypertensive during inciting event, and only became
   hypertensive in setting of prolonged hypoxia.  Chest XR without
   evidence of acute pulmonary edema.  Patient currently being treated for
   pneumonia and has been afebrile.  Chest CT shows dependent area of
   nodular opacities which could be consistent with infection vs.
   aspiration.  Patient has a history of severe aspiration on swallow
   study, and overall would feel that this would be most likely
   explanation of patinet's hypoxia and current equally rapid
   improvement.  PE seems less likely given supratherapeutic INR
   throughout hospitalization.
   - continue on supportive O2 and ween as tolerated
   - will hold further diuresis for now
   - regular albuterol/atrovent nebs.
   - will continue antibiotics of vanc/levo/flagyl
   - follow up blood and sputumc cultures
   - will consider repeat S/S eval in AM, but in the interim, will follow
   their previous recommendations.
   - If remains hypoxic, could consider a right heart cath to evaluate
   filling pressures.
   .
   # Coronaries:  The patient has no history of coronary artery disease,
   and last PMIBI without any defects.  No complaints if chest pain and no
   iscemic changes on EKG.
   .
   # Diastolic Congestive Heart:  Patient with mild diastolic dysfunction
   on last TTE. Presenting with elevated BNP, hypoxia, and lower extremity
   edema.  Patient over 6L since admission, with continued hypoxia.
   Likely some element of heart failure with new AF, with possible
   insufficient lasix dose or poor dietary compliance.
   - will repeat TTE in am
   - hold diuresis for now as feel patient is euvolemic to dry
   - continue beta-blocker
   - hold [**Last Name (un) **] in setting of ARF.
   - low sodium diet
   .
   #. Atrial Fibrillation: The patient's ECG on admission demonstrates
   atrial fibrillation, which is a new diagnosis.  She has been in and out
   of AF since admission, and is currently in sinus.  Likely contributing
   to element of acute diastolic heart failure.
   - continue metoprolol, and uptitrate as tolerated
   - already anticoagulated for PEs, and is supertherapeutic at 4.2, so
   will hold.
   .
   #. Hypertension: The patient has a h/o hypertension and had BP 189/86
   on admission. She additionally had elevated blood pressures in setting
   of hypoxia, which was controlled with nitro gtt.  She is currently
   normotensive off nitro.
   - cont metoprolol and CCB
   - hold [**Last Name (un) **] with ARF.
   .
   # Acute Renal Failure:  Patient with Cr of 1.2 on admission, currently
   1.9 after aggressive diuresis.  Appears euvolemic to try on exam.
   - send urine lytes, no casts on recent UA
   - hold on further diuresis
   - hold [**Last Name (un) **]
   .
   #. Polymyositis: The patient has a h/o polymyositis, for which she
   takes 60 mg prednisone every other day.
   - Continue current dose of Prednisone
   - Bactrim DS daily for prophylaxis
   .
   # Hypercholesterolemia:
   - cont simvastatin 10mg daily
   .  .
   #. FEN:
         Thin liquids and pureed solids
      A. PO intake reclined in chair/bed ~45-60 degrees as able.
      B. Effortful swallow with small bites of food x 2.
      C. [**1-20**] follow-up sips of thin liquid to clear pharyngeal
         residue.
      D. Alternate bites and sips.
      E. Cough after follow-up swallows to clear any penetration.
      F. NO Talking until follow-up swallows/sips have been used
         after each bite.
   .
   #. Access: PIV
   .
   #. PPx:
   - DVT: systemic anticoagulation
   - Bowel: Senna and Colace
   .
   #. Code: Full per patient and HCP
   .
   #. Dispo: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2199-11-26**] 08:41 PM
   20 Gauge - [**2199-11-26**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-11-28 05:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Started Verapamil 40Q8H, pt was hypotensive to high 80s so decreased
   metoprolol to 50mg TID.  Now on 6L NC w sats in 92-95% range, no change
   in SOB.  Holding ACE and Lasix.  Per Rads, CT does not look like PCP.
   [**Name10 (NameIs) **] start Prednisone 40mg PO in AM.
   This am she denies CP, SOB.  Had some pain in her shoulder which she
   states is chronic from a previous operation.
   Allergies:
   Captopril
   Cough;
   Erythromycin Base
   Unknown;
   Ampicillin
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2199-11-27**] 10:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-11-28**] 05:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 53 (53 - 85) bpm
   BP: 105/43(59) {89/32(48) - 139/72(86)} mmHg
   RR: 12 (12 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
                  Total In:
                                                                    620 mL
                                                                     40 mL
   PO:
                                                                    620 mL
                                                                     40 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    496 mL
                                                                    245 mL
   Urine:
                                                                    496 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    124 mL
                                                                   -205 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///37/
   Physical Examination
   GENERAL: elderly female lying in bed in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. OP clear. MM dry
   NECK: Supple with JVP of 8 cm.
   CARDIAC: RRR, no MRG
   LUNGS: coarse breath sounds bilaterally throughout
   ABDOMEN: + BS, soft NTND
   EXTREMITIES: trace LE pre-tibial edema
   SKIN: Lower extremity stasis dermatitis
   Labs / Radiology
   505 K/uL
   10.3 g/dL
   77 mg/dL
   2.2 mg/dL
   37 mEq/L
   5.0 mEq/L
   50 mg/dL
   95 mEq/L
   142 mEq/L
   32.3 %
   12.9 K/uL
        [image002.jpg]
                             [**2199-11-26**]  09:35 PM
                            [**2199-11-27**]  06:21 AM
   WBC
   15.3
   12.9
   Hct
   33.5
   32.3
   Plt
   537
   505
   Cr
   2.2
   2.2
   Glucose
   90
   77
   Other labs: PT / PTT / INR:31.7/33.0/3.3, Differential-Neuts:84.0 %,
   Lymph:12.0 %, Mono:3.6 %, Eos:0.3 %, Lactic Acid:1.9 mmol/L, Ca++:8.9
   mg/dL, Mg++:2.1 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   84 yo woman with h/o CHF, HTN, and polymyositis who presents from
   [**Hospital 858**] Rehab with lower extremity edema and hypoxia, transferred to CCU
   with acutely worsened hypoxia likely from aspiration pneumonitis.
   #. Hypoxia: Likely secondary to aspiration pneumonia vs. pneumonitis.
   Pt has history of aspiration and chest CT consistent with pneumonitis
   and not CHF.  The patient has been informed she needs a PEG tube
   because of her high risk for aspiration when eating, however she
   refuses this intervention and continues to eat.
   - Aspiration precautions.
   - continue on supportive O2 and wean as tolerated
   - will hold further diuresis for now given ARF and recent diuresis.
   - regular albuterol/atrovent nebs.
   - continue Vanc/Levo for now
   - follow up blood and sputum cultures
   - will hold off speech and swall eval given that previous evaluation
   was done recently, unlikely to be different.
   - As a component of her hypoxia may be bronchospasm given her history
   of asthma and her use of a beta-[**Last Name (LF) 770**], [**First Name3 (LF) 124**] treat with solumedrol 80
   mg IV q8h to see if this improves her hypoxia at all.
   .
   # Coronaries:  The patient has no history of coronary artery disease,
   and last PMIBI without any defects.  No complaints of chest pain and no
   ischemic changes on EKG.
   .
   # Diastolic Congestive Heart:  Patient with mild diastolic dysfunction
   on last TTE. Presenting with elevated BNP, hypoxia, and lower extremity
   edema.  Patient over 6L since admission, with continued hypoxia.
   Likely some element of heart failure with new AF, with possible
   insufficient lasix dose or poor dietary compliance.  TTE yesterday
   showed EF of 55-60% with grade II diastolic dysfunction, mild aortic
   stenosis, and mild pulm art htn.
   - hold diuresis for now as feel patient is euvolemic to dry
   - continue metoprolol 50 mg [**Hospital1 **].  As the patient has been bradycardic,
   will dc verapamil and start diltiazem 30 mg tid to improve diastolic
   filling.
   - hold [**Last Name (un) **] in setting of ARF.
   - low sodium diet
   #. Atrial Fibrillation: The patient's ECG on admission demonstrates
   atrial fibrillation, which is a new diagnosis.  She has been in and out
   of AF since admission, and is currently in sinus.  Likely contributing
   to element of acute diastolic heart failure.
   - continue metoprolol, and uptitrate as tolerated
   - already anticoagulated for PEs, INR of 2.8 today, will restart her
   coumadin at a lower dose given levofloxacin.
   #. Hypertension: The patient has a h/o hypertension and had BP 189/86
   on admission. She additionally had elevated blood pressures in setting
   of hypoxia, which was controlled with nitro gtt.  She is currently
   normotensive off nitro.
   - cont metoprolol and change to diltiazem at above.
   - hold [**Last Name (un) **] with ARF.
   .
   # Acute Renal Failure:  Patient with Cr of 1.2 on admission, currently
   2.3 after aggressive diuresis.  Appears euvolemic to try on exam.
   - hold on further diuresis
   - hold [**Last Name (un) **]
   .
   #. Polymyositis: The patient has a h/o polymyositis, for which she
   takes 60 mg prednisone every other day.  Steroids were increased during
   this admission to 60mg PO qday.
   - Solumedrol as above.
   - Bactrim SS daily for prophylaxis
   .
   # Hypercholesterolemia:
   - cont simvastatin 10mg daily
   .  .
   #. FEN:
         Thin liquids and pureed solids
      A. PO intake reclined in chair/bed ~45-60 degrees as able.
      B. Effortful swallow with small bites of food x 2.
      C. [**1-20**] follow-up sips of thin liquid to clear pharyngeal
         residue.
      D. Alternate bites and sips.
      E. Cough after follow-up swallows to clear any penetration.
      F. NO Talking until follow-up swallows/sips have been used
         after each bite.
   .
   #. Access: PIV
   .
   #. PPx:
   - DVT: systemic anticoagulation
   - Bowel: Senna and Colace
   .
   #. Code: Full per patient and HCP
   .
   #. Dispo: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2199-11-26**] 08:41 PM
   20 Gauge - [**2199-11-26**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-11-29 05:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 84 yo woman with h/o CHF, HTN, and polymyositis who
   presents from [**Hospital 858**] Rehab with lower extremity edema and hypoxia,
   transfered to CCU with acutely worsened hypoxia likely from aspiration
   pneumonitis.
   24 Hour Events:
   The patient continued to require 6L of oxygen.  Her prednisone was
   stopped and she was given 80 mg IV solumedrol instead for possible
   bronchospasm from metoprolol.  Her UCx returned with ecoli, but she is
   on levofloxacin so she should be covered for a UTI (her UA from that
   sample was negative anyway so it is likely colonization).  Her
   verapamil was stopped and she was placed on diltiazem 30 mg tid given
   the hypotension she had with verapamil yesterday.  Her vanc was dc'ed
   today as she is unlikely to have a MRSA infection.
   Allergies:
   Captopril
   Cough;
   Erythromycin Base
   Unknown;
   Ampicillin
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2199-11-27**] 10:00 AM
   Vancomycin - [**2199-11-28**] 04:00 PM
   Levofloxacin - [**2199-11-28**] 07:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-11-29**] 05:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 59 (52 - 65) bpm
   BP: 135/63(82) {105/47(63) - 151/84(90)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
                  Total In:
                                                                    880 mL
                  PO:
                                                                    530 mL
                  TF:
   IVF:
                                                                    350 mL
   Blood products:
   Total out:
                                                                  1,055 mL
                                                                    250 mL
   Urine:
                                                                  1,055 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -175 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///32/
   Physical Examination
   GENERAL: elderly female lying in bed in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. OP clear. MM dry
   NECK: Supple with JVP of 8 cm.
   CARDIAC: RRR, no MRG
   LUNGS: coarse breath sounds bilaterally throughout
   ABDOMEN: + BS, soft NTND
   EXTREMITIES: trace LE pre-tibial edema
   SKIN: Lower extremity stasis dermatitis
   Labs / Radiology
   476 K/uL
   9.2 g/dL
   109 mg/dL
   1.9 mg/dL
   32 mEq/L
   5.3 mEq/L
   58 mg/dL
   99 mEq/L
   137 mEq/L
   28.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2199-11-26**]  09:35 PM
                            [**2199-11-27**]  06:21 AM
                            [**2199-11-28**]  06:23 AM
                            [**2199-11-29**]  04:00 AM
   WBC
   15.3
   12.9
   9.7
   8.2
   Hct
   33.5
   32.3
   30.1
   28.4
   Plt
   537
   505
   470
   476
   Cr
   2.2
   2.2
   2.3
   1.9
   Glucose
   90
   77
   87
   109
   Other labs: PT / PTT / INR:26.6/28.7/2.6, Differential-Neuts:83.4 %,
   Lymph:12.6 %, Mono:3.5 %, Eos:0.4 %, Lactic Acid:1.9 mmol/L, Ca++:8.9
   mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   84 yo woman with h/o CHF, HTN, and polymyositis who presents from
   [**Hospital 858**] Rehab with lower extremity edema and hypoxia, transferred to CCU
   with acutely worsened hypoxia likely from aspiration pneumonitis.
   #. Hypoxia: Likely secondary to aspiration pneumonia vs. pneumonitis.
   Pt has history of aspiration and chest CT consistent with pneumonitis
   and not CHF.  The patient has been informed she needs a PEG tube
   because of her high risk for aspiration when eating, however she
   refuses this intervention and continues to eat.
   - Aspiration precautions.
   - continue on supportive O2 and wean as tolerated
   - will hold further diuresis for now given ARF and recent diuresis.
   - regular albuterol/atrovent nebs.
   - continue Vanc/Levo for now
   - follow up blood and sputum cultures
   - will hold off speech and swall eval given that previous evaluation
   was done recently, unlikely to be different.
   - As a component of her hypoxia may be bronchospasm given her history
   of asthma and her use of a beta-[**Last Name (LF) 770**], [**First Name3 (LF) 124**] treat with solumedrol 80
   mg IV q8h to see if this improves her hypoxia at all
   # Coronaries:  The patient has no history of coronary artery disease,
   and last PMIBI without any defects.  No complaints of chest pain and no
   ischemic changes on EKG.
   # Diastolic Congestive Heart:  Patient with mild diastolic dysfunction
   on last TTE. Presenting with elevated BNP, hypoxia, and lower extremity
   edema.  Patient over 6L since admission, with continued hypoxia.
   Likely some element of heart failure with new AF, with possible
   insufficient lasix dose or poor dietary compliance.  TTE yesterday
   showed EF of 55-60% with grade II diastolic dysfunction, mild aortic
   stenosis, and mild pulm art htn.
   - hold diuresis for now as feel patient is euvolemic to dry
   - continue metoprolol 50 mg [**Hospital1 **].  As the patient has been bradycardic,
   will dc verapamil and start diltiazem 30 mg tid to improve diastolic
   filling.
   - hold [**Last Name (un) **] in setting of ARF.
   - low sodium diet
   #. Atrial Fibrillation: The patient's ECG on admission demonstrates
   atrial fibrillation, which is a new diagnosis.  She has been in and out
   of AF since admission, and is currently in sinus.  Likely contributing
   to element of acute diastolic heart failure.
   - continue metoprolol, and uptitrate as tolerated
   - already anticoagulated for PEs, INR of 2.8 today, will restart her
   coumadin at a lower dose given levofloxacin.
   #. Hypertension: The patient has a h/o hypertension and had BP 189/86
   on admission. She additionally had elevated blood pressures in setting
   of hypoxia, which was controlled with nitro gtt.  She is currently
   normotensive off nitro.
   - cont metoprolol and change to diltiazem at above.
   - hold [**Last Name (un) **] with ARF.
   # Acute Renal Failure:  Patient with Cr of 1.2 on admission, currently
   2.3 after aggressive diuresis.  Appears euvolemic to try on exam.
   - hold on further diuresis
   - hold [**Last Name (un) **]
   #. Polymyositis: The patient has a h/o polymyositis, for which she
   takes 60 mg prednisone every other day.  Steroids were increased during
   this admission to 60mg PO qday.
   - Solumedrol as above
   - Bactrim SS daily for prophylaxis
   # Hypercholesterolemia:
   - cont simvastatin 10mg daily
   #. FEN:
         Thin liquids and pureed solids
      A. PO intake reclined in chair/bed ~45-60 degrees as able.
      B. Effortful swallow with small bites of food x 2.
      C. [**1-20**] follow-up sips of thin liquid to clear pharyngeal residue.
      D. Alternate bites and sips.
      E. Cough after follow-up swallows to clear any penetration.
      F. NO Talking until follow-up swallows/sips have been used  after
   each bite.
   #. Access: PIV
   #. PPx:
   - DVT: systemic anticoagulation
   - Bowel: Senna and Colace
   #. Code: Full per patient and HCP
   #. Dispo: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2199-11-28**] 06:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: